US07105671B2
A solution of diisopropylamine (0.55 mL, 3.94 mmol) in dry tetrahydrofuran (10 mL) was cooled to −78° C. under argon and was then treated with a 2.5M solution of n-butyllithium in hexanes (1.51 mL, 3.78 mmol). The reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of (3-chloro-4-methylsulfanyl-phenyl)-acetic acid methyl ester (0.72 g, 3.15 mmol) in dry tetrahydrofuran (3.5 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.2 mL). The reaction mixture turned gold in color and was allowed to stir at −78° C. for 1 h. The reaction mixture was then treated with a solution of trifluoromethanesulfonic acid (R)-tetrahydro-furan-2-yl methyl ester (0.959 g, 4.10 mmol) in dry tetrahydrofuran (2 mL). The reaction mixture was allowed to warm to 25° C., where it was stirred for 52 h. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution (25 mL) and then concentrated in vacuo to remove tetrahydrofuran. The aqueous residue was extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 9/1 hexanes/ethyl acetate eluted to 85/15 hexanes/ethyl acetate) afforded 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid methyl ester (0.519 g, 52%) as a pale yellow oil: [α]23589=−19.02° (c=0.51, chloroform); EI-HRMS m/e calcd for C15H19ClO3S (M+) 314.0743, found 314.0743.

reactant | diisopropylamine | 3.94 mmol, 0.55 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3-chloro-4-methylsulfanyl-phenyl)-acetic acid methyl ester | 3.15 mmol, 0.72 g | COC(CC1=CC(=C(C=C1)SC)Cl)=O | C10H11ClO2S
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1.2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
catalyst | gold | [Au] | Au
product | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid methyl ester | 0.519 g, 52% | COC(C(C[C@@H]1OCCC1)C1=CC(=C(C=C1)SC)Cl)=O | C15H19ClO3S
